US07217821B2
Malonic acid (40 g, 0.38 mol) and neopentyl alcohol (77.5 g, 0.88 mol) are refluxed for 3 hours in 110 ml of toluene in the presence of 0.2 ml of concentrated sulfuric acid in a reactor equipped with Dean-Stark apparatus. The water formed is removed azeotropically. The organic phase is washed 3 times with water and dried over sodium sulfate. After filtration and evaporation of the solvent under vacuum, 88 g (94% yield) of dineopentyl malonate are obtained in the form of a colorless oil, and are used in the next step without further purification.

reactant | Malonic acid | 0.38 mol, 40 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | neopentyl alcohol | 0.88 mol, 77.5 g | C(C(C)(C)C)O | C5H12O
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | toluene | 110 ml | C1(=CC=CC=C1)C | C7H8
product | dineopentyl malonate | 88 g, 94% yield | C(CC(=O)OCC(C)(C)C)(=O)OCC(C)(C)C | C13H24O4
